US07989438B2
Step 1: N-(cyclopropylmethyl)-(2,2-dimethoxyethanamine)
A solution of cyclopropanecarboxaldehyde in MeOH (0.2 M) was treated with 2,2-dimethoxyethylamine (1.2 eq). The solution was cooled with an ice/water bath and treated portionwise with NaCNBH3 (1.0 eq). The pH of the resulting solution was adjusted to 6 with AcOH, and the reaction left at RT for 24 h. The mixture was concentrated, diluted with EtOAc, washed with sat. aq. NaHCO3, brine, dried (Na2SO4), filtered and concentrated in vacuo to afford the product (61%). 1H NMR (300 MHz, DMSO-d6, 300 K) δ 0.05-0.07 (m, 2H), 0.15-0.17 (m, 2H), 0.87-0.93 (m, 1H), 2.39-2.41 (m, 2H), 2.64-2.66 (m, 2H), 3.3 (s, 6H), 4.46 (t, J 3.0, 1H), 5.38 (m, 1H).

reactant | cyclopropanecarboxaldehyde | C1(CC1)C=O | C4H6O
reactant | 2,2-dimethoxyethylamine | 1.2 eq | COC(CN)OC | C4H11NO2
reactant | NaCNBH3 | 1.0 eq | [BH3-]C#N.[Na+]
reactant | AcOH | CC(=O)O | C2H4O2
solvent | MeOH | 0.2 M | CO | CH4O
product | N-(cyclopropylmethyl)-(2,2-dimethoxyethanamine) | 61% | C1(CC1)CNCC(OC)OC | C8H17NO2
